US06331549B1
2.0 g of 2-ethyl-3-methyl-8-vinylquinoline, 65 ml of t-butanol and 65 ml of water are introduced into a 250 ml round-bottomed flask. The solution is cooled to 0° C. on an ice bath and 16.8 g of AD-mix-α (complex based on K2OsO2(OH)4, Fe(CN)6 and dihydroquinidine 1,4-phthalazinediyl diether as ligand) are added. Stirring is continued for 18 h at 0° C. and a solution of 12.6 g of sodium sulphite in 30 ml of water is added. The mixture obtained is stirred for 1 h at room temperature and is then extracted with ethyl acetate (2×200 ml). The organic phase is dried over magnesium sulphate and concentrated. The residue is purified by column chromatography on silica (elution solvent: 3/7 ethyl acetate/heptane). 2.0 g (yield: 86.5%) of (+)-2-ethyl-3-methyl-8-(1(S),2-dihydroxyethyl)quinoline are obtained in the form of a white solid.

reactant | 2-ethyl-3-methyl-8-vinylquinoline | 2.0 g | C(C)C1=NC2=C(C=CC=C2C=C1C)C=C | C14H15N
reactant | t-butanol | 65 ml | C(C)(C)(C)O | C4H10O
reactant | AD-mix-α | 16.8 g | CC[C@@H]1CN2CC[C@@H]1C[C@@H]2[C@@H](C3=C4C=C(C=CC4=NC=C3)OC)OC5=NN=C(C6=CC=CC=C65)O[C@@H]([C@H]7C[C@@H]8CCN7C[C@@H]8CC)C9=C1C=C(C=CC1=NC=C9)OC | C48H54N6O4
reactant | sodium sulphite | 12.6 g | S(=O)([O-])[O-].[Na+].[Na+]
solvent | water | 30 ml | O | H2O
solvent | water | 65 ml | O | H2O
product | (+)-2-ethyl-3-methyl-8-(1(S),2-dihydroxyethyl)quinoline | 2.0 g, yield: 86.5% | C(C)C1=NC2=C(C=CC=C2C=C1C)[C@@H](CO)O | C14H17NO2
